US05665719
To a solution of 1-benzyl-4-((2-aminomethyl)phenylamino)piperidine (1.74 g, 5.90 mmol) from Step 3 in dry DMF (50 mL) was added 4-nitrophenyl chloroformate (1.25 g, 6.20 mmol) and DIEA (3.08 mL, 17.7 mmol). After the reaction had been stirred at ambient temperature for 24 h, the solvent was removed under reduced pressure. The residue was dissolved in DCM (100 mL) and washed with saturated aqueous NaHCO3 (4×50 mL), dried (MgSO4), and filtered. The solution was concetrated and the precipitate which formed was collected by filtration to give 1-(1-benzyl-4-piperidinyl)-3,4-dihydroquinazolin-2(1H)-one as a white solid (50% yield).

reactant | 4-nitrophenyl chloroformate | 6.20 mmol, 1.25 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | DIEA | 17.7 mmol, 3.08 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 1-(1-benzyl-4-piperidinyl)-3,4-dihydroquinazolin-2(1H)-one | 50% yield | C(C1=CC=CC=C1)N1CCC(CC1)N1C(NCC2=CC=CC=C12)=O | C20H23N3O
